* File: invd0.pex.netlist.pex
* Created: Tue Jul 15 14:55:04 2008
* Program "Calibre xRC"
* Version "v2008.1_20.15"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_invd0%VDD 3 17 19
c0 17 0 0.860013f
c1 14 0 0.706953f
c2 10 0 1.08831f
r3 19 15 0.02925 
r4 15 23 0.00737069 
r5 15 17 0.0337275 
r6 14 23 0.007875 
r7 14 15 0.03375 
r8 15 10 0.173571 
r9 3 10 1.43471 
.ends

.subckt PM_invd0%VSS 3 20 22
c1 20 0 0.826492f
c2 17 0 0.723344f
c3 14 0 0.242985f
r4 18 26 0.0219375 
r5 22 18 0.0298125 
r6 18 20 0.033165 
r7 17 26 0.007875 
r8 17 18 0.0331875 
r9 13 26 0.01125 
r10 12 14 0.003 
r11 12 13 0.01125 
r12 18 12 0.01125 
r13 9 12 0.009 
r14 3 14 4.13333 
r15 3 9 11.2 
.ends

.subckt PM_invd0%I 2 6 10
c1 16 0 0.283981f
c2 13 0 0.265356f
c3 10 0 0.208684f
c4 6 0 3.60054f
c5 2 0 8.14619f
r6 16 19 4.14506 
r7 16 18 4.95697 
r8 16 21 2.4 
r9 13 21 0.0354976 
r10 10 13 4 
r11 18 6 32.1429 
r12 19 2 42 
.ends

.subckt PM_invd0%ZN 1 2 4
c0 24 0 0.091233f
c1 20 0 0.264342f
c2 16 0 0.36764f
c3 14 0 0.238755f
c4 10 0 0.730194f
c5 9 0 0.146768f
c6 7 0 0.33029f
c7 4 0 0.201231f
r8 23 24 0.00243552 
r9 17 20 0.0128571 
r10 15 24 0.0301045 
r11 15 16 0.171 
r12 14 24 0.0301045 
r13 13 20 0.01125 
r14 13 14 0.1125 
r15 9 16 0.0275117 
r16 9 10 0.1005 
r17 23 7 0.04 
r18 4 7 4 
r19 2 10 1.4 
r20 1 17 3.1 
.ends

